US06977262B2
4-(2-Chlorophenyl)-5-cyano-6-formyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine
4-(2-Chlorophenyl)-5-cyano-6-dimethoxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (4.4 g) was added to trifluoroacetic acid (20 ml) under ice-cooling and the mixture was stirred at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure and crystallized from ethyl acetate (50 ml) to give the title compound (1.9 g) as yellow crystals.

reactant | 4-(2-Chlorophenyl)-5-cyano-6-dimethoxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 4.4 g | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)C(OC)OC)=NNC2 | C16H15ClN4O2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-Chlorophenyl)-5-cyano-6-formyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 1.9 g | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)C=O)=NNC2 | C14H9ClN4O
